US07687491B2
(7a) t-Butyl(dimethyl)(4,5,6,7-tetrahydro-1-benzofuran-4-yloxy)silane
To a solution of 6,7-dihydro-4-(5H)-benzofuranone (5.0 g, 37 mmol) in methanol (50 ml) was added sodium borohydride (1.4 g, 37 mmol) at 0° C. with stirring, and the resulting mixture was stirred for 1 hour. After evaporating the reaction mixture in vacuo, the residue obtained was diluted with ether, poured into water (40 ml), and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo. Subsequently, to a solution of the residue thus obtained in dimethylformamide (30 ml) were added successively imidazole (4.0 g, 59 mmol) and t-butyldimethylchlorosilane (4.9 g, 32 mmol) with stirring, and the resulting mixture was stirred for 2 hours. After stirring, the reaction mixture was poured into water (50 ml) to quench the reaction and extracted with ether. The extract was washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo, and the crude product of the title compound thus obtained was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (1:49 to 3:97) as the eluent to afford the title compound (7.2 g) in a yield of 77% as a colourless oily product.

reactant | 6,7-dihydro-4-(5H)-benzofuranone | 37 mmol, 5.0 g | O1C=CC2=C1CCCC2=O | C8H8O2
reactant | sodium borohydride | 37 mmol, 1.4 g | [BH4-].[Na+]
reactant | imidazole | 59 mmol, 4.0 g | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylchlorosilane | 32 mmol, 4.9 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | methanol | 50 ml | CO | CH4O
solvent | ether | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | t-Butyl(dimethyl)(4,5,6,7-tetrahydro-1-benzofuran-4-yloxy)silane | yield of 77% | C(C)(C)(C)[Si](OC1CCCC2=C1C=CO2)(C)C | C14H24O2Si
